US07241887B2
8-(3-Amino-phenyl)-3-benzyl-3-aza-bicyclo[3.2.1]octan-8-ol
3-Benzyl-8-(3-bromo-phenyl)-3-aza-bicyclo[3.2.1]octan-8-ol (4.69 g, 7.82 mmol) was dissolved in toluene (40 mL) in a flame dried RB flask. To this was added benzophenone imine (1.57 mL, 9.38 mmol), sodium t-butoxide (1.05 g, 11.0 mmol), then BINAP (racemic, 0.487 g, 0.782 mmol). The reaction was degassed (evac./N2 purged 3×) before adding palladium II acetate (0.175 g, 0.782 mmol), then heated to 100° C. in an oil bath under N2 overnight (or until judged complete by TLC). The imine was cooled to room temperature, treated with 6 N HCl (25 mL), and heated to 100° C. After 1 h, the reaction was cooled to room temperature, filtered through a Celite pad, rinsed with ether (50 mL) then water (50 mL). The filtrate was washed with ether (2×100 mL), then the aqueous layer was basified to pH 10 with 1 N NaOH, and saturated aqueous Na2CO3 solution. The product was extracted with EtOAc (3×100 mL), washed with saturated aqueous NaCl solution (1×100 mL), dried over Na2SO4, filtered through a Silica pad (2×3 in) eluted with 100% EtOAc and concentrated to an orange foam (2.34 g, 97%). (TLC 50% EtOAc/hexanes Rf 0.30); 1H NMR (400 MHz, CDCl3) δ 7.38–7.20 (m, 5H), 7.12 (t, J=7.9 Hz, 1H), 6.86 (d, J=7.9 Hz, 1H), 6.79 (s, 1H), 6.59 (m, 1H), 3.64–3.57 (m, 2H−NH2, 2H), 2.85 (d, J=9.9 Hz, 2H), 2.58 (m, 2H), 2.34 (br s, 2H), 1.77 (d, J=7.1 Hz, 2H), 1.43 (m, 2H); APCI MS m/z 309.2 (M+1)+.

reactant | 3-Benzyl-8-(3-bromo-phenyl)-3-aza-bicyclo[3.2.1]octan-8-ol | 7.82 mmol, 4.69 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2(O)C2=CC(=CC=C2)Br | C20H22BrNO
reactant | benzophenone imine | 9.38 mmol, 1.57 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | 11.0 mmol, 1.05 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.782 mmol, 0.487 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | HCl | 6 N, 25 mL | Cl | ClH
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium II acetate | 0.782 mmol, 0.175 g | CC(=O)O.CC(=O)O.[Pd]
product | 8-(3-Amino-phenyl)-3-benzyl-3-aza-bicyclo[3.2.1]octan-8-ol | NC=1C=C(C=CC1)C1(C2CN(CC1CC2)CC2=CC=CC=C2)O | C20H24N2O
